US06605618B2
1-Hexyl-3-[4-[4-(4-[2-[(2S)-2-hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carbonyl]-phenyl}-urea
N-[4-({4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-1-piperidinyl}carbonyl)phenyl]-N′-hexylurea (0.160 g, 0.180 mmol) was reacted according to Procedure H (eluant: 5:1 chloroform-methanol) to give the title compound (0.06 g, 0.09 mmol).

reactant | N-[4-({4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-1-piperidinyl}carbonyl)phenyl]-N′-hexylurea | 0.180 mmol, 0.160 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C(OC[C@H](CNCCC2=CC=C(NC3CCN(CC3)C(=O)C3=CC=C(C=C3)NC(=O)NCCCCCC)C=C2)O)C=C1 | C52H67N5O5Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 1-Hexyl-3-[4-[4-(4-[2-[(2S)-2-hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carbonyl]-phenyl}-urea | 0.09 mmol, 0.06 g | C(CCCCC)NC(=O)NC1=CC=C(C=C1)C(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O | C36H49N5O5
